US05624935
2-Hydroxymethyl-1-methyl-7-azaindole
A procedure similar to that described in Preparation 2 was repeated, except that 130 mg of ethyl 1-methyl-7-azaindole-2-carboxylate (prepared as described in Preparation 80), 23 mg of lithium aluminum hydride and 2 ml of tetrahydrofuran were used, to give 110 mg of the title compound having Rf=0.47 (on silica gel thin layer chromatography using a 3:1 by volume mixture of hexane and ethyl acetate as the developing solvent).

reactant | ethyl 1-methyl-7-azaindole-2-carboxylate | 130 mg | CN1C(=CC2=CC=CN=C12)C(=O)OCC | C11H12N2O2
reactant | lithium aluminum hydride | 23 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 2-Hydroxymethyl-1-methyl-7-azaindole | 110 mg | OCC=1N(C2=NC=CC=C2C1)C | C9H10N2O
